US07622583B2
A mixture of 2-[methyl-(2,2,2-trifluoro-acetyl)-amino]-3-nitro-benzoic acid methyl ester (1.7 g, 5.5 mmol) and 5 M aqueous NaOH (5 mL) in THF (10 mL) was stirred at 50° C. for several hours. The mixture was acidified with 4 M HCl and extracted with EtOAc to provide 2-methylamino-3-nitro-benzoic acid. MS m/z: 197.0 (M+H)+.

reactant | 2-[methyl-(2,2,2-trifluoro-acetyl)-amino]-3-nitro-benzoic acid methyl ester | 5.5 mmol, 1.7 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])N(C(C(F)(F)F)=O)C)=O | C11H9F3N2O5
reactant | NaOH | 5 M, 5 mL | [OH-].[Na+]
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-methylamino-3-nitro-benzoic acid | CNC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H8N2O4
